US03966780
2.3 g of 7,11-dimethyl-2,4-dodecadienoic acid methyl ester is dissolved in 46 ml of methanol and 18 ml of tetrahydrofuran. The mixture is cooled to 0°C., and 4.9 g of potassium hydroxide in 18 ml of water is added. The mixture is stirred overnight (18 hours) at room temperature (22°C.), poured on to water, and extracted with diethyl ether. The aqueous phase is made slightly acidic with 3-N sulphuric acid and again extracted with diethyl ether. The latter, ether extract is washed to neutrality, dried and evaporated. There is obtained 7,11-dimethyl-2,4-dodecadienoic acid, obtained as a slightly-yellow, colored oil, which is uniform according to thin-layer chromatography and which can be utilized without further processing.

reactant | 7,11-dimethyl-2,4-dodecadienoic acid methyl ester | 2.3 g | COC(C=CC=CCC(CCCC(C)C)C)=O | C15H26O2
reactant | potassium hydroxide | 4.9 g | [OH-].[K+]
solvent | methanol | 46 ml | CO | CH4O
solvent | tetrahydrofuran | 18 ml | O1CCCC1 | C4H8O
solvent | water | 18 ml | O | H2O
product | 7,11-dimethyl-2,4-dodecadienoic acid | CC(CC=CC=CC(=O)O)CCCC(C)C | C14H24O2
